* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* CDL Netlist:                                          *
*                                                       *
* Cell Name  : layout1                                  *
* Netlisted  : Fri Jan 24 15:17:34 2020                 *
* PVS Version: 16.10-p006 Thu Jul 27 18:05:02 PDT 2017 *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
*.LDD
*.DEVTMPLT 0 MN(g45n1svt) _nmos1v ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 1 MN(g45n1hvt) _nmos1v_hvt ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 2 MN(g45n1lvt) _nmos1v_lvt ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 3 MN(g45n1nvt) _nmos_12_native ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 4 MN(g45n2svt) _nmos_25 ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 5 MN(g45n2nvt) _nmos_25_native ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 6 MN(g45ncap1) _nmoscap1v ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 7 MN(g45ncap2) _nmoscap2v ndiff_conn(D) poly_conn(G) ndiff_conn(S) psubstrate(B)
*.DEVTMPLT 8 MP(g45p1svt) _pmos1v pdiff_conn(D) poly_conn(G) pdiff_conn(S) nwell_conn(B)
*.DEVTMPLT 9 MP(g45p1hvt) _pmos1v_hvt pdiff_conn(D) poly_conn(G) pdiff_conn(S) nwell_conn(B)
*.DEVTMPLT 10 MP(g45p1lvt) _pmos1v_lvt pdiff_conn(D) poly_conn(G) pdiff_conn(S) nwell_conn(B)
*.DEVTMPLT 11 MP(g45p2svt) _pmos2v pdiff_conn(D) poly_conn(G) pdiff_conn(S) nwell_conn(B)
*.DEVTMPLT 12 MP(g45pcap1) _pmoscap1v pdiff_conn(D) poly_conn(G) pdiff_conn(S) nwell_conn(B)
*.DEVTMPLT 13 MP(g45pcap2) _pmoscap2v pdiff_conn(D) poly_conn(G) pdiff_conn(S) nwell_conn(B)
*.DEVTMPLT 14 R(g45rm1) _resm1 metal1_conn(PLUS) metal1_conn(MINUS)
*.DEVTMPLT 15 R(g45rm2) _resm2 metal2_conn(PLUS) metal2_conn(MINUS)
*.DEVTMPLT 16 R(g45rm3) _resm3 metal3_conn(PLUS) metal3_conn(MINUS)
*.DEVTMPLT 17 R(g45rm4) _resm4 metal4_conn(PLUS) metal4_conn(MINUS)
*.DEVTMPLT 18 R(g45rm5) _resm5 metal5_conn(PLUS) metal5_conn(MINUS)
*.DEVTMPLT 19 R(g45rm6) _resm6 metal6_conn(PLUS) metal6_conn(MINUS)
*.DEVTMPLT 20 R(g45rm7) _resm7 metal7_conn(PLUS) metal7_conn(MINUS)
*.DEVTMPLT 21 R(g45rm8) _resm8 metal8_conn(PLUS) metal8_conn(MINUS)
*.DEVTMPLT 22 R(g45rm9) _resm9 metal9_conn(PLUS) metal9_conn(MINUS)
*.DEVTMPLT 23 R(g45rm10) _resm10 metal10_conn(PLUS) metal10_conn(MINUS)
*.DEVTMPLT 24 R(g45rm11) _resm11 metal11_conn(PLUS) metal11_conn(MINUS)
*.DEVTMPLT 25 R(g45rsnd) _ressndiff ndiff_conn(PLUS) ndiff_conn(MINUS) psubstrate(B)
*.DEVTMPLT 26 R(g45rnsnd) _resnsndiff ndiff_conn(PLUS) ndiff_conn(MINUS) psubstrate(B)
*.DEVTMPLT 27 R(g45rsnp) _ressnpoly poly_conn(PLUS) poly_conn(MINUS) psubstrate(B)
*.DEVTMPLT 28 R(g45rsnp) _ressnpoly_nw poly_conn(PLUS) poly_conn(MINUS) nwell_conn(B)
*.DEVTMPLT 29 R(g45rnsnp) _resnsnpoly poly_conn(PLUS) poly_conn(MINUS) psubstrate(B)
*.DEVTMPLT 30 R(g45rnsnp) _resnsnpoly_nw poly_conn(PLUS) poly_conn(MINUS) nwell_conn(B)
*.DEVTMPLT 31 R(g45rspd) _resspdiff pdiff_conn(PLUS) pdiff_conn(MINUS) nwell_conn(B)
*.DEVTMPLT 32 R(g45rnspd) _resnspdiff pdiff_conn(PLUS) pdiff_conn(MINUS) nwell_conn(B)
*.DEVTMPLT 33 R(g45rspp) _ressppoly poly_conn(PLUS) poly_conn(MINUS) psubstrate(B)
*.DEVTMPLT 34 R(g45rspp) _ressppoly_nw poly_conn(PLUS) poly_conn(MINUS) nwell_conn(B)
*.DEVTMPLT 35 R(g45rnspp) _resnsppoly poly_conn(PLUS) poly_conn(MINUS) psubstrate(B)
*.DEVTMPLT 36 R(g45rnspp) _resnsppoly_nw poly_conn(PLUS) poly_conn(MINUS) nwell_conn(B)
*.DEVTMPLT 37 R(g45rnws) _resnwsti nwell_conn(PLUS) nwell_conn(MINUS) psubstrate(B)
*.DEVTMPLT 38 R(g45rnwo) _resnwoxide nwell_conn(PLUS) nwell_conn(MINUS) psubstrate(B)
*.DEVTMPLT 39 D(g45nd1svt) _ndio psubstrate(PLUS) ndiff_conn(MINUS)
*.DEVTMPLT 40 D(g45nd1lvt) _ndio_lvt psubstrate(PLUS) ndiff_conn(MINUS)
*.DEVTMPLT 41 D(g45nd1hvt) _ndio_hvt psubstrate(PLUS) ndiff_conn(MINUS)
*.DEVTMPLT 42 D(g45nd1nvt) _ndio_nvt psubstrate(PLUS) ndiff_conn(MINUS)
*.DEVTMPLT 43 D(g45nd2svt) _ndio_2v psubstrate(PLUS) ndiff_conn(MINUS)
*.DEVTMPLT 44 D(g45nd2nvt) _ndio_2v_nvt psubstrate(PLUS) ndiff_conn(MINUS)
*.DEVTMPLT 45 D(g45pd1svt) _pdio pdiff_conn(PLUS) nwell_conn(MINUS)
*.DEVTMPLT 46 D(g45pd1lvt) _pdio_lvt pdiff_conn(PLUS) nwell_conn(MINUS)
*.DEVTMPLT 47 D(g45pd1hvt) _pdio_hvt pdiff_conn(PLUS) nwell_conn(MINUS)
*.DEVTMPLT 48 D(g45pd2svt) _pdio_2v pdiff_conn(PLUS) nwell_conn(MINUS)
*.DEVTMPLT 49 Q(g45vpnp2) _vpnp2 psubstrate(C) nwell_conn(B) pdiff_conn(E)
*.DEVTMPLT 50 Q(g45vpnp5) _vpnp5 psubstrate(C) nwell_conn(B) pdiff_conn(E)
*.DEVTMPLT 51 Q(g45vpnp10) _vpnp10 psubstrate(C) nwell_conn(B) pdiff_conn(E)
*.DEVTMPLT 52 Q(g45vnpn2) _npn2 nwell_conn(C) psubstrate(B) npn_emit(E)
*.DEVTMPLT 53 Q(g45vnpn5) _npn5 nwell_conn(C) psubstrate(B) npn_emit(E)
*.DEVTMPLT 54 Q(g45vnpn10) _npn10 nwell_conn(C) psubstrate(B) npn_emit(E)
*.DEVTMPLT 55 C(g45cmim) _mimcap CapMetal(PLUS) metal10_conn(MINUS) psubstrate(B)
*.DEVTMPLT 56 L(g45inda) _ind_a ind10(PLUS) ind11(MINUS) psubstrate(B)
*.DEVTMPLT 57 L(g45inds) _ind_s ind11(PLUS) ind11(MINUS) psubstrate(B)

* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: L                                           *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt L PLUS MINUS B
.ends L

* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: nmos1v$$2                                   *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt nmos1v$$2 D_drain_1 S_source_0 3
** N=3 EP=3 FDC=1
M0 S_source_0 3 D_drain_1 S_source_0 g45n1svt L=4.5e-08 W=1.2e-07 AD=1.68e-14 AS=1.68e-14 PD=5.2e-07 PS=5.2e-07 fw=1.2e-07 sa=1.4e-07 sb=1.4e-07 sca=6.41294 scb=0.00284743 scc=1.59259e-05 $X=0 $Y=0 $dt=0
.ends nmos1v$$2

* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: pmos1v$$3                                   *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt pmos1v$$3 D_drain_1 S_source_0 3 B
** N=5 EP=4 FDC=1
M0 S_source_0 3 D_drain_1 B g45p1svt L=4.5e-08 W=1.2e-07 AD=1.68e-14 AS=1.68e-14 PD=5.2e-07 PS=5.2e-07 fw=1.2e-07 sa=1.4e-07 sb=1.4e-07 sca=14.5031 scb=0.0143693 scc=0.000677066 $X=0 $Y=0 $dt=8
.ends pmos1v$$3

* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
* Sub cell: layout1                                     *
* +++++++++++++++++++++++++++++++++++++++++++++++++++++ *
.subckt layout1 input output
** N=4 EP=2 FDC=2
X0 output 2 input nmos1v$$2 $T=-18460 6930 0 0 $X=-18880 $Y=6730
X1 output 4 input 4 pmos1v$$3 $T=-18460 8620 0 0 $X=-18880 $Y=8420
.ends layout1
